reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[C:4]=[C:5]([C:3]([H:11])([H:12])[H:13])[H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],97.73706455059096
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[N+:5]#[C-:4])([H:6])([H:7])[H:8],41.0358754390714
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]/[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],53.1784362662735
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]([O:4][H:8])([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.93385915042569
[C:1]([O:2][C:3]([N+:5]#[C-:4])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],35.0714743969989
[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:10],98.0300359150598
[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8]>>[N:1]1([H:7])[C@@:2]([C:3](=[N+:4]=[N-:5])[H:9])([H:8])[O:6]1,133.077543362737
[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],84.30018404381092
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:5]/[C:4](=[N:3]/[H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],79.43820557438158
[O:1](/[C:2](=[C:3]1\[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],60.11247007519082
[C:1](=[C:2]([C:3](/[C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])[H:14])([H:12])[H:13])[H:11])([H:8])[H:10].[H:9][H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],36.727751994425205
[C:1]([C:2]([O:3][H:11])([C:4]([H:12])([H:13])[H:15])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],20.076303567073708
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10].[C:4]([H:11])([H:13])([H:14])[H:15],121.241303121771
[N:1]([C:2]#[N+:3][C:4](=[N:5][O-:6])[H:9])([H:7])[H:8]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],10.559197587928793
[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:5](=[C:6]=[C:7]([H:12])[H:15])([H:13])[H:14].[O:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])[H:8],45.2405825164743
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:12],69.3967816595583
[C+:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[C:5]=[N-:6])[H:9])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],38.37253023397359
[N:1](=[c:2]1[n-:3][n:4]([H:9])[c:5]([H:10])[n+:6]1[H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],31.669610793418297
[C:3]([C:4]([C:5]([O:6][H:7])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:16].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],63.384523626965596
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:6]=[N:7][C:4]([O:5][H:16])([H:14])[H:15])([H:8])([H:9])[H:10],82.4015075505583
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:13])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],94.1767365217481
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:18])[H:15])[H:10])([H:7])([H:8])[H:9].[H:11][H:17],125.139552103097
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[N:2]([H:10])[C:3](=[N:4]/[H:11])/[C:5]1=[N:6]/[H:9],96.8178676887963
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](/[C:5]([O:6][H:16])=[N:7]\[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],44.448968174547204
